US07696231B2
a) Preparation of methyl 4-{[3-(3,4-dihydroxyphenyl)propanoyl]amino}benzoate (Compound C of Scheme 2)
To a solution of 3,4-dihydroxyhydrocinnamic acid (723 mg, 3.97 mmol) in anhydrous THF (20 mL) were added N-methylmorpholine (0.44 mL, 3.97 mmol) and isobutylchloroformate (0.52 mL,3.97 mmol) at 0° C. After 45 min, at 0° C., a solution of methyl 4-aminobenzoate (500 mg, 3.31 mmol) in anhydrous THF (4 mL) was added to the reaction mixture. After 5 min the temperature was allowed to warm up to rt and stir overnight. After extraction with EtOAc (100 mL), washing with HCl (0.1N, 50 mL) and a saturated aqueous solution of NaHCO3 (50 mL), the organic layer was dryed over sodium sulfate and evaporated under vacuo to give a yellow oil. Purification by flash chromatography using DCM/MeOH (95/5) as eluant gave the title compound as a colourless oil (22%) in a 94.8% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 3,4-dihydroxyhydrocinnamic acid | 3.97 mmol, 723 mg | OC=1C=C(CCC(=O)O)C=CC1O | C9H10O4
reactant | N-methylmorpholine | 3.97 mmol, 0.44 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 3.97 mmol, 0.52 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | methyl 4-aminobenzoate | 3.31 mmol, 500 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | methyl 4-{[3-(3,4-dihydroxyphenyl)propanoyl]amino}benzoate | 22% | OC=1C=C(C=CC1O)CCC(=O)NC1=CC=C(C(=O)OC)C=C1 | C17H17NO5
